US05852031
A solution of 3.0 g (7.75 mmol) of (7R,9aS)-2-BOC-7-(5-fluoroindol-1-yl)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine in 200 mL of 70:30 trifluoroacetic acid:water was stirred at room temperature for 1 h. The mixture was concentrated in vacuo, basified with 15% sodium hydroxide and extracted with ethyl acetate (2×). The combined organics were dried (magnesium sulfate), filtered and evaporated to give 2.0 g (90%) of (7R,9aS)-7-(5-fluoroindol-1-yl)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido-[1,2-a]pyrazine.

reactant | (7R,9aS)-2-BOC-7-(5-fluoroindol-1-yl)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 7.75 mmol, 3.0 g | C(=O)(OC(C)(C)C)N1C[C@H]2N(CC1)C[C@@H](CC2)CN2C=CC1=CC(=CC=C21)F | C22H30FN3O2
reactant | water | O | H2O
solvent | trifluoroacetic acid | 200 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (7R,9aS)-7-(5-fluoroindol-1-yl)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido-[1,2-a]pyrazine | 2.0 g, 90% | FC=1C=C2C=CN(C2=CC1)C[C@@H]1CC[C@@H]2N(CCNC2)C1 | C17H22FN3
